* gnetlist -g spice-sdb -o fault_6.net fault_6.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./models/D1N4148.mod vvvvvvvv
.model	D1N4148	D(Is=0.1p Rs=16 CJO=2p Tt=12n Bv=100 Ibv=0.1p)
*^^^^^^^^  End of included SPICE model from ./models/D1N4148.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ./models/QMPSA06.mod vvvvvvvv
.MODEL QMPSA06 npn
+IS=6.03149e-15 BF=559.138 NF=0.841146 VAF=996.086
+IKF=0.187838 ISE=1e-08 NE=3.53096 BR=43.984
+NR=0.893292 VAR=1.45264 IKR=1e-05 ISC=3.06474e-11
+NC=3.98114 RB=0.01 IRB=0.269152 RBM=0.01
+RE=1e-05 RC=0.000928752 XTB=1.17305 XTI=1
+EG=1.05 CJE=5.54912e-11 VJE=0.577764 MJE=0.313139
+TF=5.4629e-10 XTF=23.7458 VTF=7.07849 ITF=4.69733
+CJC=1.76218e-11 VJC=0.4 MJC=0.285166 XCJC=0.902334
+FC=0.732277 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
*^^^^^^^^  End of included SPICE model from ./models/QMPSA06.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ./models/QMJE340.mod vvvvvvvv
.MODEL QMJE340 npn
+IS=1.03431e-13 BF=172.974 NF=0.939811 VAF=27.3487
+IKF=0.0260146 ISE=4.48447e-11 NE=1.61605 BR=16.6725
+NR=0.796984 VAR=6.11596 IKR=0.10004 ISC=9.99914e-14
+NC=1.99995 RB=1.47761 IRB=0.2 RBM=1.47761
+RE=0.0001 RC=1.42228 XTB=2.70726 XTI=1
+EG=1.206 CJE=1e-11 VJE=0.75 MJE=0.33
+TF=1e-09 XTF=1 VTF=10 ITF=0.01
+CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9
+FC=0.5 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
*^^^^^^^^  End of included SPICE model from ./models/QMJE340.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ./models/QMJE350.mod vvvvvvvv
.MODEL QMJE350 pnp
+IS=6.01619e-15 BF=157.387 NF=0.910131 VAF=23.273
+IKF=0.0564808 ISE=4.48479e-12 NE=1.58557 BR=0.1
+NR=1.03823 VAR=4.14543 IKR=0.0999978 ISC=1.00199e-13
+NC=1.98851 RB=0.1 IRB=0.202965 RBM=0.1
+RE=0.0710678 RC=0.355339 XTB=1.03638 XTI=3.8424
+EG=1.206 CJE=1e-11 VJE=0.75 MJE=0.33
+TF=1e-09 XTF=1 VTF=10 ITF=0.01
+CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9
+FC=0.5 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
*^^^^^^^^  End of included SPICE model from ./models/QMJE350.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ./models/QTIP31.mod vvvvvvvv
.MODEL QTIP31 npn
+	IS=1e-09 BF=3656.16 NF=1.23899 VAF=10
+	IKF=0.0333653 ISE=1e-08 NE=2.29374 BR=0.1
+	NR=1.5 VAR=100 IKR=0.333653 ISC=1e-08
+	NC=1.75728 RB=6.15083 IRB=100 RBM=0.00113049
+	RE=0.0001 RC=0.0491489 XTB=50 XTI=1
+	EG=1.05 CJE=3.26475e-10 VJE=0.446174 MJE=0.464221
+	TF=2.06218e-09 XTF=15.0842 VTF=25.7317 ITF=0.001
+	CJC=3.07593e-10 VJC=0.775484 MJC=0.476498 XCJC=0.750493
+	FC=0.796407 CJS=0 VJS=0.75 MJS=0.5
+	TR=9.57121e-06 PTF=0 KF=0 AF=1
*^^^^^^^^  End of included SPICE model from ./models/QTIP31.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ./models/QTIP32.mod vvvvvvvv
.MODEL QTIP32 pnp
+	IS=1e-09 BF=134.366 NF=1.29961 VAF=10
+	IKF=0.742988 ISE=1e-16 NE=1.40014 BR=0.1
+	NR=1.46599 VAR=100 IKR=3.21978 ISC=1e-16
+	NC=2.71657 RB=7.44433 IRB=2.41268 RBM=0.218936
+	RE=0.0152284 RC=0.0761421 XTB=0.1 XTI=1
+	EG=1.05 CJE=3.26474e-10 VJE=0.446178 MJE=0.464223
+	TF=1e-08 XTF=3.50642 VTF=8.2848 ITF=0.0305862
+	CJC=3.07595e-10 VJC=0.77548 MJC=0.476497 XCJC=0.799334
+	FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+	TR=9.57121e-06 PTF=0 KF=0 AF=1
*^^^^^^^^  End of included SPICE model from ./models/QTIP32.mod ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ./models/QMPSA56.mod vvvvvvvv
.MODEL QMPSA56 pnp
+IS=9.62586e-12 BF=246.647 NF=1.19008 VAF=19.1507
+IKF=0.332189 ISE=1.74278e-11 NE=1.95504 BR=0.1
+NR=1.49124 VAR=3.92539 IKR=4.71144 ISC=3.90265e-13
+NC=3.98982 RB=0.772559 IRB=0.184627 RBM=0.365314
+RE=0.00202964 RC=0.26419 XTB=0.467199 XTI=1
+EG=0.851752 CJE=4.05433e-11 VJE=0.4 MJE=0.748564
+TF=7.64992e-10 XTF=4.80943 VTF=12.6194 ITF=0.441135
+CJC=4.21506e-11 VJC=0.4 MJC=0.352218 XCJC=0.899996
+FC=0.180025 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
*^^^^^^^^  End of included SPICE model from ./models/QMPSA56.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
D12 n12 n13 D1N4148 
D11 n11 n12 D1N4148 
Q7 n101 n15 n20 QTIP32 
Q5 n101 n13 n15 QMJE350 
Q10 n10 n8 n9 QMPSA56 
Q2 n5 n3 n6 QMPSA56 
Q1 n4 n2 n6 QMPSA56 
Q6 0 n14 n20 QTIP31 
Q4 0 n10 n14 QMJE340 
Q3 n13 n4 n101 QMPSA06 
Q9 n5 n5 n101 QMPSA06 
Q8 n4 n5 n101 QMPSA06 
RE2 n15 n20 500  
RE1 n20 n14 500  
RB11 n11 n10 100  
RB10 n8 0 15K  
RE10 n9 0 650  
RE n6 0 14.3K  
D2 n7 n8 D1N4148 
D1 0 n7 D1N4148 
CC n13 n4 500PF  
CF n16 0 20UF  
CIN n2 n1 20UF  
RL 0 n20 8  
RF1 n16 n3 1K  
RF2 n3 n20 9K  
RIN 0 n2 1K  
VS n1 0 AC 1 SIN(0 1V 1KHZ)
VEE n101 0 DC -15V
.TRAN	0.0001MS 2MS
.AC DEC 5 1 10MEG
.PROBE
.END
